US08048909B2
tert-Butyl {[1-({3-[(cyclopropylamino)carbonyl]phenyl}sulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate
To a solution (5 mL) of 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid (150 mg) in N,N-dimethylformamide were added 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (92 mg), 1-hydroxy-1H-benzotriazole (73 mg) and cyclopropylamine (27 mg) at room temperature. After stirring at the same temperature for 30 min, water was added and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→4:1) to give the title compound as a colorless amorphous (yield 162 mg, quantitative).

reactant | 3-[(4-{[(tert-butoxycarbonyl)(methyl)amino]methyl}-2-phenyl-1H-pyrrol-1-yl)sulfonyl]benzoic acid | 5 mL, 150 mg | C(C)(C)(C)OC(=O)N(C)CC=1C=C(N(C1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C24H26N2O6S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 92 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 73 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | cyclopropylamine | 27 mg | C1(CC1)N | C3H7N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-Butyl {[1-({3-[(cyclopropylamino)carbonyl]phenyl}sulfonyl)-5-phenyl-1H-pyrrol-3-yl]methyl}methylcarbamate | C1(CC1)NC(=O)C=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)CN(C(OC(C)(C)C)=O)C | C27H31N3O5S
